US08957214B2
2-chloro-5-chloromethylpyridine in an amount of 3.00 g (18.6 mmol) was dissolved in 20 mL of anhydrous dimethylformamide (DMF), 1.75 g (18.6 mmol) of 2-aminopyridine was added, and the mixture was stirred out at 80° C. for 8 hours and at room temperature for 5 hours. Following reaction completion, DMF was distilled off under reduced pressure and acetonitrile was added, whereupon a solid separated out. The solid was collected by filtration, thoroughly washed with acetonitrile, then dried, giving 2.07 g of 1-[(6-chloropyridin-3-yl)methyl]pyridin-2(1H)-imine hydrochloride (yield, 44%).

reactant | 2-chloro-5-chloromethylpyridine | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-aminopyridine | 18.6 mmol, 1.75 g | NC1=NC=CC=C1 | C5H6N2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-[(6-chloropyridin-3-yl)methyl]pyridin-2(1H)-imine hydrochloride | 2.07 g, 44% | Cl.ClC1=CC=C(C=N1)CN1C(C=CC=C1)=N | InChI=1S/C11H10ClN3.ClH/c12-10-5-4-9(7-14-10)8-15-6-2-1-3-11(15)13;/h1-7,13H,8H2;1H
